US04579859
A solution of 2,3-dichlorobenzaldehyde (0.70 g), 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of acetoacetic acid (1.42 g) and methyl 3-amino-crotonate (0.46 g) in tert-butyl alcohol (3 ml) was refluxed for 4.5 hours. The resulting mixture was cooled to 25° C. and then concentrated under reduced pressure. The residue obtained was subjected to column chromatography on silica gel (60 g) and eluted with a mixture of chloroform and methanol (100:1 by volume). The fractions containing the desired compound were collected and evaporated under reduced pressure. The residue obtained was recrystallized from a mixture of diethyl ether and diisopropyl ether to give 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of 4-(2,3-dichlorophenyl)-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine-3-carboxylic acid (1.11 g), mp 115° to 117.5° C.

reactant | 2,3-dichlorobenzaldehyde | 0.70 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | acetoacetic acid | 1.42 g | C(CC(=O)C)(=O)O | C4H6O3
reactant | methyl 3-amino-crotonate | 0.46 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | tert-butyl alcohol | 3 ml | C(C)(C)(C)O | C4H10O
product | 4-(2,3-dichlorophenyl)-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine-3-carboxylic acid | 1.11 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)O | C16H15Cl2NO4
